US05763437
To a suspension of (3RS)-2,3-dihydro-5-(2-flurophenyl)-1-(2-oxo-2H-1-benzopyran-6-yl)methyl-3-phthalimido-1H-1,4-benzodiazepin-2-one (1.30 g) in THF (50 ml) was added dropwise hydrazine monohydrate (0.12 g) under stirring at ambient temperature. The mixture was stirred for 2 hours at the same temperature and refluxed under stirring for 2 hours. The reaction mixture was cooled in an ice-bath. The resultant precipitates were filtered off and washed with THF. The filtrate and washing were combined and concentrated in vacuo to afford a residue. The residue was dissolved into chloroform (100 ml) and extracted with 1N-HCl aqueous solution (2×25 ml). The aqueous layer was alkalined with sodium bicarbonate, extracted with chloroform (2×100 ml), dried over magnesium sulfate and filtered. The filtrate was concentrated in vacuo to afford a crude product. The crude product was purified by column chromatography on silica gel with an eluent of a mixture of chloroform and ethyl acetate to afford (3RS)-3-amino-2,3-dihydro-5-(2-fluorophenyl)-1-(2-oxo-2H-1-benzopyran-6-yl)methyl-1H-1,4-benzodiazepin-2-one as a colorless crystalline solid (0.30 g).

reactant | (3RS)-2,3-dihydro-5-(2-flurophenyl)-1-(2-oxo-2H-1-benzopyran-6-yl)methyl-3-phthalimido-1H-1,4-benzodiazepin-2-one | 1.30 g | FC1=C(C=CC=C1)C1=NC(C(N(C2=C1C=CC=C2)CC=2C=CC1=C(C=CC(O1)=O)C2)=O)N2C(C=1C(C2=O)=CC=CC1)=O | C33H20FN3O5
reactant | hydrazine monohydrate | 0.12 g | O.NN
reactant | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | (3RS)-3-amino-2,3-dihydro-5-(2-fluorophenyl)-1-(2-oxo-2H-1-benzopyran-6-yl)methyl-1H-1,4-benzodiazepin-2-one | 0.30 g | NC1C(N(C2=C(C(=N1)C1=C(C=CC=C1)F)C=CC=C2)CC=2C=CC1=C(C=CC(O1)=O)C2)=O | C25H18FN3O3
